US07842830B2
Here we have discovered that the compound can be easily synthesized from commercially available 4,4′-dibromobenzil. The reaction between 4,4′-dibromobenzil and copper cyanide in DMF at 165° C. yielded 4,4′-dicyanobenzil (JYC-I-097-A) as a yellow solid (1.36 g, 48%) after column chromatography. The scheme of the reaction is shown in FIG. 12.

reactant | 4,4′-dibromobenzil | BrC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)Br | C14H8Br2O2
reactant | copper cyanide | [Cu](C#N)C#N
reactant | DMF | CN(C)C=O | C3H7NO
product | 4,4′-dicyanobenzil | 1.36 g, 48% | C(#N)C1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)C#N | C16H8N2O2
